US06727264B1
N-(3-{1-[(2S)-2-(3,4-DIMETHOXYPHENOXY)-2-PHENYLETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
Prepared by Procedure B and Scheme B1 using 3,4-dimethoxyphenol and N-(3-{1-[(2R)-2-hydroxy-2-phenylethyl]-4-piperidinyl}phenyl)-2-methylpropanamide: ESMS m/e: 503.2 (M+H)+.

reactant | 3,4-dimethoxyphenol | COC=1C=C(C=CC1OC)O | C8H10O3
reactant | N-(3-{1-[(2R)-2-hydroxy-2-phenylethyl]-4-piperidinyl}phenyl)-2-methylpropanamide | O[C@@H](CN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C23H30N2O2
product | N-(3-{1-[(2S)-2-(3,4-DIMETHOXYPHENOXY)-2-PHENYLETHYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE | COC=1C=C(O[C@H](CN2CCC(CC2)C=2C=C(C=CC2)NC(C(C)C)=O)C2=CC=CC=C2)C=CC1OC | C31H38N2O4
